********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Mar 17, 2014
*ECN S14-0479, Rev. A
*File Name: SiA440DJ_PS.txt and SiA440DJ_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SiA440DJ D G S 
M1 3 GX S S NMOS W= 1301301u L= 0.25u 
M2 S GX S D PMOS W= 1301301u L= 0.21u 
R1 D 3 1.990e-02 TC=5.125e-03, 7.079e-06 
CGS GX S 4.271e-10 
CGD GX D 1.167e-11 
RG G GY 1 
RTCV 100 S 1e6 TC=1.680e-04, -1.279e-06 
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 1301301u 
**************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 3e-8 
+ RS = 0 KP = 2.936e-05 NSUB = 1.063e+17
+ KAPPA = 1.0755e-02 NFS = 5.088e+10
+ LD = 0 IS = 0 TPG = 1 ) 
*************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 3e-8 
+NSUB = 2.988e+16 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 1.652e-08 T_MEASURED = 25 BV = 41 
+RS = 7.324e-03 N = 1.658e+00 IS = 8.104e-08 
+EG = 9.678e-01 XTI = 2.276e+00 TRS1 = 7.566e-04 
+CJO = 2.467e-10 VJ = 7.789e-01 M = 5.747e-01 ) 
.ENDS 
