* M:\git\edv\models\push-pull.asc
V1 N011 0 PULSE(3.3 0 300u 10n 10n 5u 10u)
Q3 N012 N008 N011 0 PH_BC847A
V3 N004 0 3.3
R4 N004 N008 1.5k
R6 N003 N012 10k
M1 N009 N014 0 0 Si4940DY
R1 N014 N013 150
R5 Vin N009 8.5
A1 N012 0 0 0 0 0 N015 0 OR Vhigh=5 Vlow=0 Ref=1.5 Trise=5n Tfall=5n Td=5n
D1 N005 N006 PH_BAT54A
R2 N017 N005 1.3k
R3 N006 N005 1.3k
Q1 N012 N018 0 0 PH_BC847A
R7 N018 0 1.5k
R8 N005 N015 220
XU1 N002 N003 N010 0 N007 Vin N016 0 N001 Vin LTC3255
C1 Vin 0 1µ
C2 N016 0 0.1µ
C3 N002 N001 1µ
R9 N003 N007 220k
R10 N010 0 1.21Meg
R11 N003 N010 3.83Meg
C4 N003 0 10µ
C5 Vin 0 60µ
D3 N008 N012 PH_BAT54A
XU2 0 N017 N003 N006 N013 N013 N013 N013 ZXMC3AMC ZXMC3AMC
D2 N017 N005 PH_BAT54A
.model D D
.lib C:\Users\moskw\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\moskw\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\moskw\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0 10u
.ic V(Vin)=30
.lib LTC3255.sub
.lib ZXMC3AMC.sub
.backanno
.end
